US04864058
(+)-β-[(2-Amino-1-naphthalenyl)thio]-α-hydroxy-4-methoxybenzenepropanoic acid (+)-1-(p-hydroxybenzyl)-1,2,3,4,5,6,7,8-octahydroisoquinoline, 5.0 g (0.0079 mol) was decomposed in 60 mL 1N HCl. The resulting suspension was extracted with ethyl acetate (3×100 mL). The combined ethyl acetate solutions were dried (MgSO4) and removal of the solvent gave 3.25 g of crude acid of the title. Recrystallization from CHCl3 (10 mL) overnight afforded 2.81 g (96.2%) of (+)-β-[(2-amino-1-naphthaleneyl)thio]-α-hydroxy-4-methoxybenzenepropanoic acid, mp 143°-145°. The analytical sample was recrystallized from benzene, mp 143°-145°, [α]D25 +269.51° (C 0.52, MeOH).

reactant | (+)-β-[(2-Amino-1-naphthalenyl)thio]-α-hydroxy-4-methoxybenzenepropanoic acid (+)-1-(p-hydroxybenzyl)-1,2,3,4,5,6,7,8-octahydroisoquinoline | OC1=CC=C(CC2NCCC=3CCCCC23)C=C1.NC1=C(C2=CC=CC=C2C=C1)SC(C(C(=O)O)O)C1=CC=C(C=C1)OC
solvent | HCl | 1N, 60 mL | Cl | ClH
product | (+)-β-[(2-amino-1-naphthaleneyl)thio]-α-hydroxy-4-methoxybenzenepropanoic acid | 2.81 g, 96.2% | NC1=C(C2=CC=CC=C2C=C1)SC(C(C(=O)O)O)C1=CC=C(C=C1)OC | C20H19NO4S
